US09056136B2
2-Nitroimidazole (1 molar equivalent) in acetone was mixed with epichlorohydrin (1.1 molar equivalent) and potassium carbonate (0.001 molar equivalent). The mixture was refluxed overnight and taken to dryness in vacuo to give 1-(2-hydroxy-3-chloropropyl)-2-nitroimidazole. 1-(2-Hydroxy-3-chloropropyl)-2-nitroimidazole is taken up in ethyl acetate and mixed with an equal volume of 10% aqueous sodium hydroxide with vigorous stirring for 1 hour at room temperature. The ethyl acetate layer was washed with water, dried over anhydrous sodium sulfate and taken to dryness to give 1-(2,3-epoxypropyl)-2-nitroimidazole. 1-(2,3-epoxypropyl)-2-nitroimidazole (1 molar equivalent) dissolved in acetone was mixed with N′-1,1,1,3,3,3-hexafluoroisopropylpiperazine (1.1 molar equivalent) and the solution refluxed overnight. The reaction solution was taken to dryness in vacuo to give 1-(2-hydroxy-3-(N′-1,1,1,3,3,3-hexafluoroisopropylpiperazino)-2-nitroimidazole (XVI) that was recrystallized from ethanol. The chemical intermediate, N′-1,1,1,3,3,3-hexafluoroisopropylpiperazine, was prepared by heating 1,1,1,3,3,3-hexafluoroisopropyl bromide (1.0 molar equivalent) and piperazine (1.1 molar equivalent) at reflux in ethanol overnight. The chemical intermediate 1,1,1,3,3,3-hexafluoroisopropyl bromide was prepared by reacting commercially available 1,1,1,3,3,3-hexafluoroisopropyl alcohol (1 molar equivalent) with phosphorus tribromide (0.33 molar equivalent) in ethyl ether overnight at room temperature.

reactant | 1-(2-Hydroxy-3-chloropropyl)-2-nitroimidazole | OC(CN1C(=NC=C1)[N+](=O)[O-])CCl | C6H8ClN3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,3-epoxypropyl)-2-nitroimidazole | O1C(CN2C(=NC=C2)[N+](=O)[O-])C1 | C6H7N3O3
